US07622486B2
Synthesis of N-methyl-4-[4-Pyrrolidin-1-yl-6-(4-trifluoromethoxy-phenyl)-pyridin-2-ylamino]-benzenesulfonamide (B66)
To a solution of 4-(6-chloro-4-pyrrolidin-1-yl-pyridin-2-ylamino)-N-methyl-benzenesulfonamide (100 mg, 0.27 mmol) in 1,4-dioxane (8 mL) was added 1N sodium carbonate solution (0.3 mL) and tetrakis(triphenylphosphine)palladium(0) (15.8 mg, 0.013 mmol), followed by 4-trifluoromethoxyphenyl boronic acid (67.2 mg, 0.32 mmol). The resulting reaction mixture was refluxed for 8 hours, after which time water was added (100 mL) to the reaction mixture, and the product was extracted with ethyl acetate (100 mL×3). The organic layer was dried over sodium sulphate, filtered, and the filtrate was concentrated under vacuum. The resulting product was purified by column chromatography using 230-400 mesh silica gel (20:80 acetone:petroleum ether) to afford the desired compound pale yellow solid (46 mg, yield 34%.).

reactant | 4-(6-chloro-4-pyrrolidin-1-yl-pyridin-2-ylamino)-N-methyl-benzenesulfonamide | 0.27 mmol, 100 mg | ClC1=CC(=CC(=N1)NC1=CC=C(C=C1)S(=O)(=O)NC)N1CCCC1 | C16H19ClN4O2S
reactant | sodium carbonate | 1N, 0.3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-trifluoromethoxyphenyl boronic acid | 0.32 mmol, 67.2 mg | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | water | O | H2O
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.013 mmol, 15.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-methyl-4-[4-Pyrrolidin-1-yl-6-(4-trifluoromethoxy-phenyl)-pyridin-2-ylamino]-benzenesulfonamide | yield 34% | CNS(=O)(=O)C1=CC=C(C=C1)NC1=NC(=CC(=C1)N1CCCC1)C1=CC=C(C=C1)OC(F)(F)F | C23H23F3N4O3S
